US06824760B2
Synthesis of N-t-Butyloxycarbonyl-α-methyltyrosine methylester
The α-methyltyrosine methylester (2.54 g) was dissolved in 16 ml of dimethylformamide (DMF) which became cloudy with the addition of triethylamine (3.6 ml). Di-t-butyl dicarbonate (2.20 g) was added and the mixture stirred overnight. After evaporation of DMF under high vacuum the material was treated with ether (30 ml) which produced a precipitate. This precipitate was filtered and discarded. Evaporation of the filtrate yielded 3.38 g (dried under vacuum) of a colorless liquid. TLC analysis using Hexane. Ethyl Acetate (1:1) showed the product at Rf 0.7 and the starting material at 0.1.

reactant | α-methyltyrosine methylester | 2.54 g | COC([C@@](N)(CC1=CC=C(C=C1)O)C)=O | C11H15NO3
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | Di-t-butyl dicarbonate | 2.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | N-t-Butyloxycarbonyl-α-methyltyrosine methylester | COC([C@@](NC(=O)OC(C)(C)C)(CC1=CC=C(C=C1)O)C)=O | C16H23NO5
